US04055570
1,3-bis-methoxycarbonylmethyl-2,2dimethylimidazolidine- 4,5-dione
A solution of 12.8 g (0.1 mole) of 2,2-dimethylimidazolidine-4,5-dione in 70 ml of dimethyl formamide is slowly added dropwise, with stirring, at 20°-30° C to a suspension of 4.8 g (0.2 mole) of sodium hydride in 60 ml of dimethyl formamide. When the uptake of hydrogen has ceased, a solution of 33.4 g (0.2 mole) of bromacetic acid ethyl ester in 30 ml of dimethylformamide is added dropwise at 40°-50° C. After it has been stirred for 1 hour at 80° C, the reaction mixture is evaporated to dryness in vacuo. The residue is washed with ether and taken up in chloroform. The insoluble potassium bromide is filtered off and the chloroform solution evaporated. The residue is recrystallised from n-butanol to yield 7.8 g of colourless crystals with a melting point of 129°-130° C. The infra-red and nuclear magnetic resonance spectra confirm the presumed structure and the results of the elemental analysis are:

reactant | 2,2-dimethylimidazolidine-4,5-dione | 0.1 mole, 12.8 g | CC1(NC(C(N1)=O)=O)C | C5H8N2O2
reactant | sodium hydride | 0.2 mole, 4.8 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | bromacetic acid ethyl ester | 0.2 mole, 33.4 g | C(C)OC(CBr)=O | C4H7BrO2
solvent | dimethyl formamide | 70 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 60 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1,3-bis-methoxycarbonylmethyl-2,2dimethylimidazolidine- 4,5-dione | 7.8 g | COC(=O)CN1C(N(C(C1=O)=O)CC(=O)OC)(C)C | C11H16N2O6
